US07943612B2
(4-{3-[3-(4-Methanesulfonyl-phenylethynyl)-5-(3-morpholin-4-yl-prop-1-ynyl)-phenyl]-prop-2-ynyloxy}-2-methyl-phenoxy)-acetic acid
To a solution of (4-{3-[3-(4-methanesulfonyl-phenylethynyl)-5-(3-morpholin-4-yl-prop-1-ynyl)-phenyl]-prop-2-ynyloxy}-2-methyl-phenoxy)-acetic acid methyl ester (50 mg, 0.08 mmol) in THF (1.25 ml) and methanol (0.25 ml) was added a ice-cold solution of LiOH (1 M, 1.25 ml). The reaction mixture was stirred at 0° C. for 460 min., after which water (10 ml) and aqueous HCl (1M, 1.75 ml) were added. The mixture was extracted with ethyl acetate (2×10 ml), and the combined organic phases were dried and evaporated to give the title compound in 15 mg (31%) yield.

reactant | (4-{3-[3-(4-methanesulfonyl-phenylethynyl)-5-(3-morpholin-4-yl-prop-1-ynyl)-phenyl]-prop-2-ynyloxy}-2-methyl-phenoxy)-acetic acid methyl ester | 0.08 mmol, 50 mg | COC(COC1=C(C=C(C=C1)OCC#CC1=CC(=CC(=C1)C#CCN1CCOCC1)C#CC1=CC=C(C=C1)S(=O)(=O)C)C)=O | C35H33NO7S
reactant | LiOH | 1 M, 1.25 ml | [Li+].[OH-]
reactant | water | 10 ml | O | H2O
reactant | HCl | 1M, 1.75 ml | Cl | ClH
solvent | THF | 1.25 ml | C1CCOC1 | C4H8O
solvent | methanol | 0.25 ml | CO | CH4O
product | (4-{3-[3-(4-Methanesulfonyl-phenylethynyl)-5-(3-morpholin-4-yl-prop-1-ynyl)-phenyl]-prop-2-ynyloxy}-2-methyl-phenoxy)-acetic acid | CS(=O)(=O)C1=CC=C(C=C1)C#CC=1C=C(C=C(C1)C#CCN1CCOCC1)C#CCOC1=CC(=C(OCC(=O)O)C=C1)C | C34H31NO7S
